US08258130B2
A solution of 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid chloride (1 mmol) in EtOAc (20 mL) is added to a stirred solution of 5-fluoro-indol-1-ylamine (1.20 mmol) and K2CO3 (2 mmol) in EtOAc (10 mL) and H2O (20 mL) at rt, and the reaction mixture is stirred at rt overnight. The reaction mixture is extracted with EtOAc. The organic layer is washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-10% MeOH in DCM to give a solid. The solid is triturated with EtOAc/heptane to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide (122 mg, 35%) as a solid. MS: 348 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.77 (s, 3H), 6.55 (m, H) 7.06 (m, H), 7.32-7.66 (m, 4H), 8.02 (m, H), 8.45 (d, H), 8.79 (s, H), 9.26 (s, H), 12.00 (s, N—H). IC50=17 nM.

reactant | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid chloride | 1 mmol | CC1=NC(=NC=C1C(=O)Cl)C1=NC=CC=C1 | C11H8ClN3O
reactant | 5-fluoro-indol-1-ylamine | 1.20 mmol | FC=1C=C2C=CN(C2=CC1)N | C8H7FN2
reactant | K2CO3 | 2 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 20 mL | O | H2O
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide | 122 mg, 35% | FC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=C1)C | C19H14FN5O
